US06951879B2
According to the method in example 23, Methanesulfonic acid 4-[3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl]-butyl ester and N-(2-Methoxyethyl)ethylamine were converted to yield {4-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yl]-butyl}-ethyl-(2-methoxy-ethyl)-amine, MS: 403 (MH+, 1Cl).

reactant | Methanesulfonic acid 4-[3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl]-butyl ester | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)CCCCOS(=O)(=O)C | C18H18ClNO3S2
reactant | N-(2-Methoxyethyl)ethylamine | COCCNCC | C5H13NO
product | {4-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yl]-butyl}-ethyl-(2-methoxy-ethyl)-amine | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)CCCCN(CCOC)CC | C22H27ClN2OS
